US07449460B2
Following the procedure of Example 11, a mixture of 150 mg (0.34 mmol) of 4-[3-Chloro-4-(pyridin-2-ylsulfanyl)-phenylamino]-7-fluoro-6-methoxyquinoline-3-carbonitrile and 264 mg (1.71 mmol) of 4-(1-pyrrolidinylpiperidine) are refluxed in 1-methyl 2-pyrrolidinone (1 mL) at 105° C. for 12 hours to yield the crude product. Purification by silica gel chromatography (95:5 methylene chloride/methanol) gives 126 mg of 4-[3-chloro-4-(pyridin-2-ylsulfanyl)-phenylamino]-6-methoxy-7-(4-pyrrolidin-1-yl-piperidin-1-yl)quinoline-3-carbonitrile as a yellow solid, mp 203-205° C.

reactant | 4-[3-Chloro-4-(pyridin-2-ylsulfanyl)-phenylamino]-7-fluoro-6-methoxyquinoline-3-carbonitrile | 0.34 mmol, 150 mg | ClC=1C=C(C=CC1SC1=NC=CC=C1)NC1=C(C=NC2=CC(=C(C=C12)OC)F)C#N | C22H14ClFN4OS
reactant | 1-methyl 2-pyrrolidinone | 1 mL | CN1C(CCC1)=O | C5H9NO
product | 4-[3-chloro-4-(pyridin-2-ylsulfanyl)-phenylamino]-6-methoxy-7-(4-pyrrolidin-1-yl-piperidin-1-yl)quinoline-3-carbonitrile | 126 mg | ClC=1C=C(C=CC1SC1=NC=CC=C1)NC1=C(C=NC2=CC(=C(C=C12)OC)N1CCC(CC1)N1CCCC1)C#N | C31H31ClN6OS
